US07812183B2
(3S,4R)-4-(5-Fluoro-benzo[d]isoxazol-3-yloxy)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #70)
Following the procedure in Example 1, using (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-fluoro-benzo[d]isoxazol-3-one as starting materials, the title compound was prepared as a white solid.

reactant | (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1([C@@H]2[C@H](C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-fluoro-benzo[d]isoxazol-3-one | FC=1C=CC2=C(C(NO2)=O)C1 | C7H4FNO2
product | (3S,4R)-4-(5-Fluoro-benzo[d]isoxazol-3-yloxy)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | FC=1C=CC2=C(C(=NO2)O[C@H]2[C@@H](C(OC3=CC=C(C=C23)C#N)(C)C)O)C1 | C19H15FN2O4
